US07365095B2
To a solution of (R)-2-azidomethyl-8-(2-chloro-phenyl)-6-fluoro-chroman (210 mg, 0.67 mmol) in tetrahydrofuran (10 mL) and water (0.5 mL) was added triphenylphosphine (0.26 g, 10 mmol) and the reaction mixture stirred at room temperature for 24 hours. The solvent was removed under vacuum to form a colorless oil. Chromatography with 0–5% methanol in methylene chloride plus 1% NH4OH afforded {[(R)-8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine as a colorless oil. The colorless oil was dissolved in ethyl acetate and made into its hydrochloride salt (56 mg, 25%) as a beige solid using excess ethereal hydrochloric acid, mp 145–147° C.; [α]D25=+256.01° (c=5.3 mg/0.7 mL MeOH).

reactant | (R)-2-azidomethyl-8-(2-chloro-phenyl)-6-fluoro-chroman | 0.67 mmol, 210 mg | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC=C1)Cl | C16H13ClFN3O
reactant | triphenylphosphine | 10 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NH4OH | [NH4+].[OH-]
product | {[(R)-8-(2-chlorophenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine | ClC1=C(C=CC=C1)C=1C=C(C=C2C=C[C@@H](OC12)CN)F | C16H13ClFNO
